US08357635B2
To a stirred solution of trans N-{1-[2-(2-chloro-phenyl)-cyclopropyl]-ethyl}-O-methyl-hydroxylamine (0.30 g; 1.3 mmol) prepared as described in example P12 and triethylamine (0.25 ml; 1.7 mmol) in dichloromethane (5.0 ml) at ambient temperature was added dropwise 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride (0.28 g; 1.3 mmol). The reaction mixture was stirred for 16 hours at ambient temperature then poured in water (50 ml) and extracted with dichloromethane (3×25 ml). Combined organic layers were washed with water (10 ml), brine and dried over anhydrous sodium sulphate. The solvent was removed in vacuo and the residue was purified by flash chromatography over silica gel (elution gradient: cyclohexane/ethyl acetate 99:1 to 1:99) to afford 0.46 g (92% of theory) of trans 3-Difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid {1-[2-(2-chloro-phenyl)-cyclopropyl]-ethyl}-methoxy-amide as single diastereomere A in form of a clear viscous oil.

reactant | trans N-{1-[2-(2-chloro-phenyl)-cyclopropyl]-ethyl}-O-methyl-hydroxylamine | 1.3 mmol, 0.30 g | ClC1=C(C=CC=C1)[C@H]1[C@@H](C1)C(C)NOC | C12H16ClNO
reactant | triethylamine | 1.7 mmol, 0.25 ml | C(C)N(CC)CC | C6H15N
reactant | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride | 1.3 mmol, 0.28 g | FC(C1=NN(C=C1C(=O)Cl)C)F | C6H5ClF2N2O
solvent | dichloromethane | 5.0 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | trans 3-Difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid {1-[2-(2-chloro-phenyl)-cyclopropyl]-ethyl}-methoxy-amide | 0.46 g, 92% | ClC1=C(C=CC=C1)[C@H]1[C@@H](C1)C(C)N(C(=O)C=1C(=NN(C1)C)C(F)F)OC | C18H20ClF2N3O2
